US05688792
Step 4: (R)-[[3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]-p-toluenesulfonate
The [3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methanol (1.465 g, 4.69 mmol) was dissolved in pyridine (15 mL) and then cooled to 0° C. (ice bath). This solution was next treated with p-toluenesulfonyl chloride (1.34 g, 7.035 mmol) and allowed to stir at 0° C. under N2 for 7 hours. At this point, the reaction was stoppered and stored in the freezer overnight (16 hours). In the morning, the reaction showed only a trace of starting material by TLC (5% MeOH/CHCl3, UV short wave). The product was precipitated by quenching the reaction mixture with ice water (100 mL). The solid was isolated by suction filtration and washed thoroughly with water. The title compound, 2.02 g (92%), was recovered as a white solid with a melting point of 141° C. and a HRMS (M+) calculated for C21H23 N2O5FS2 466.1032, found 466.1036.

reactant | [3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methanol | 4.69 mmol, 1.465 g | FC=1C=C(C=CC1N1CCSCC1)N1C(OC(C1)CO)=O | C14H17FN2O3S
reactant | p-toluenesulfonyl chloride | 7.035 mmol, 1.34 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | (R)-[[3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]-p-toluenesulfonate | FC=1C=C(C=CC1N1CCSCC1)N1C(O[C@H](C1)COS(=O)(=O)C1=CC=C(C=C1)C)=O | C21H23FN2O5S2
